US04650902
N-Methyl-5-oxononane-4-sulfonamide
211 g (1 mol) of 5-morpholinonon-4-ene were dissolved in 1 liter of tetrahydrofuran. First 129.5 g (1 mol) of amidosulfonyl chloride in 300 ml of tetrahydrofuran and then 101 g (1 mol) of triethylamine were added dropwise to the solution, cooled to -40° C. The mixture was left to warm up to 20° C. and the precipitated triethylammonium hydrochloride was filtered off. The solvent was then distilled off and the residue was stirred for one hour with a mixture of 1 liter of methylene chloride and 250 ml of 2N hydrochloric acid. The organic phase was separated off, dried with sodium sulfate and distilled. This gave 152.3 g (65% of theory) of a colorless oil of boiling point 135°-138° C. at 0.3 mbar.

reactant | 5-morpholinonon-4-ene | 1 mol, 211 g | O1CCN(CC1)C(=CCCC)CCCC | C13H25NO
reactant | amidosulfonyl chloride | 1 mol, 129.5 g | NS(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 1 mol, 101 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-Methyl-5-oxononane-4-sulfonamide | CNS(=O)(=O)C(CCC)C(CCCC)=O | C10H21NO3S
